US06486142B2
Step 1 1-(3-methylbenzyl)-1H-benzotriazole
To a solution of benzotriazole (3 g) in DMF (38 mL) at r.t. was added a solution of 10N NaOH (2.75 mL). After stirring for 25 min., 3-methylbenzyl bromide (3.9 mL) was added. The mixture was further stirred for 30 min, diluted with H2O, and extracted with EtOAc. The EtOAc extract was washed with brine (2×), water, brine, and was then dried (MgSO4) and concentrated. The residue was stirred in diethyl ether/hexane to give the title compound as a white solid.

reactant | benzotriazole | 3 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | NaOH | 10N, 2.75 mL | [OH-].[Na+]
reactant | 3-methylbenzyl bromide | 3.9 mL | CC=1C=C(CBr)C=CC1 | C8H9Br
solvent | DMF | 38 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-(3-methylbenzyl)-1H-benzotriazole | CC=1C=C(CN2N=NC3=C2C=CC=C3)C=CC1 | C14H13N3
